US09403805B2
(2S,4S)-4-[(1-Amino-naphthalene-2-carbonyl)-amino]-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester was prepared from (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester and 1-amino-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C24H32N3O3[(M+H)+] 410, obsd. 410.

reactant | (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CC1CCCCC1 | C13H24N2O2
reactant | 1-amino-naphthalene-2-carboxylic acid | NC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H9NO2
product | (2S,4S)-4-[(1-Amino-naphthalene-2-carbonyl)-amino]-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)N)CC1CCCCC1 | C24H31N3O3
